US06166219
Five-percent palladium on carbon (0.50 g) was added to a solution of 4.00 g of ethyl 3-amino-4-nitro-benzoate in 100 ml of methanol, and the mixture was stirred in a hydrogen atmosphere at 50° C. for 16 hours. The solid material was separated through filtration, and the filtrate was concentrated to obtain ethyl 3,4-diaminobenzoate. Twenty milliliters of trifluoroacetic acid were added thereto, and the mixture was stirred at 60° C. for 2 hours. The reaction solution was concentrated, and chloroform was added thereto. The crystals precipitated were separated through filtration, and were dried to give 4.46 g of 5-ethoxycarbonyl-2-trifluoromethylbenzimidazole (157).

reactant | ethyl 3-amino-4-nitro-benzoate | 4.00 g | NC=1C=C(C(=O)OCC)C=CC1[N+](=O)[O-] | C9H10N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.50 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | ethyl 3,4-diaminobenzoate | NC=1C=C(C(=O)OCC)C=CC1N | C9H12N2O2
